US04061761
3-(4-Chloro-3-sulfamoylphenyl)-3-hydroxy-2,3,5,6-tetrahydroimidazo-[2,1-b]-thiazole-hydrobromide
6.2 g of 2-bromo-4'-chloro-3'-sulfamoylacetophenone and 2 g of ground 2-imidazolidine-thione were reacted according to the prescription given in Example 12 and the crystalline precipitate was filtered off. Colorless solid body: decomposition beginning at 100° C, γC=N 1590 cm-1.

reactant | 2-bromo-4'-chloro-3'-sulfamoylacetophenone | 6.2 g | BrCC(=O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O | C8H7BrClNO3S
reactant | 2-imidazolidine-thione | N1C(NCC1)=S | C3H6N2S
product | 3-(4-Chloro-3-sulfamoylphenyl)-3-hydroxy-2,3,5,6-tetrahydroimidazo-[2,1-b]-thiazole-hydrobromide | Br.ClC1=C(C=C(C=C1)C1(N2C(SC1)=NCC2)O)S(N)(=O)=O | InChI=1S/C11H12ClN3O3S2.BrH/c12-8-2-1-7(5-9(8)20(13,17)18)11(16)6-19-10-14-3-4-15(10)11;/h1-2,5,16H,3-4,6H2,(H2,13,17,18);1H
